US05593984
Preparation of 6-cyano-1-methylpyrrolo[1,2-a]pyrazine
To a solution of 4.3 g of 6-bromo-1-methylpyrrolo[1,2-a]pyrazine dissolved in 50 ml of N-methylpyrrolidone was added 4.5 g of copper(I) cyanide. The resulting solution was stirred at 150° C. for 5 hours, and then cooled to room temperature. To the reaction mixture was added 100 ml of sodium cyanide solution; and the resulting solution was extracted with ethyl acetate(100 ml×3). The organic layer was concentrated to dryness to obtain 2.5 g of title compound.

reactant | 6-bromo-1-methylpyrrolo[1,2-a]pyrazine | 4.3 g | BrC1=CC=C2N1C=CN=C2C | C8H7BrN2
reactant | copper(I) cyanide | 4.5 g | [Cu]C#N
reactant | sodium cyanide | 100 ml | [C-]#N.[Na+]
solvent | N-methylpyrrolidone | 50 ml | CN1C(CCC1)=O | C5H9NO
product | 6-cyano-1-methylpyrrolo[1,2-a]pyrazine | 2.5 g | C(#N)C1=CC=C2N1C=CN=C2C | C9H7N3
